US04432786
To a reaction mixture containing 3.6 gms (0.01 mol) of 2-{1-[(5-chlorothien-2-ylmethoxy)imino]butyl}-3-hydroxy-5,5-dimethylcyclohex-2-en-1-one and 0.87 gm (0.011 mol) of pyridine in 20 mls of methylene chloride stirred at 0° C. is added 0.89 gm (0.011 mol) of acetyl chloride. The mixture is then stirred at room temperature for 2 hours. The mixture is then worked up by washing with water, drying with anhydrous magnesium sulfate, and filtered. The filtrate is evaporated under vacuum affording 3-acetyloxy-2-{1-[(5-chlorothien-2-ylmethoxy)imino]butyl}-5,5-dimethylcyclohex-2-en-1-one.

reactant | 2-{1-[(5-chlorothien-2-ylmethoxy)imino]butyl}-3-hydroxy-5,5-dimethylcyclohex-2-en-1-one | 0.01 mol, 3.6 gms | ClC1=CC=C(S1)CON=C(CCC)C=1C(CC(CC1O)(C)C)=O | C17H22ClNO3S
reactant | pyridine | 0.011 mol, 0.87 gm | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.011 mol, 0.89 gm | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 20 mls | C(Cl)Cl | CH2Cl2
product | 3-acetyloxy-2-{1-[(5-chlorothien-2-ylmethoxy)imino]butyl}-5,5-dimethylcyclohex-2-en-1-one | C(C)(=O)OC1=C(C(CC(C1)(C)C)=O)C(CCC)=NOCC=1SC(=CC1)Cl | C19H24ClNO4S
